US03978044
4-phenyl 4-cyano 2-methylthiocarbamoyl 1-pyrrolidino cyclohex-1-ene
Using the procedure of step B at example 10 and starting from 126.4 g 4-phenyl 4-cyano 1-pyrrolidino cyclohex-1 ene and 40 g ethyl isothiocyanate, 107.25 g of 4-phenyl 4-cyano 2-ethylthiocarbamoyl 1-pyrrolidino cyclohex-1 ene are obtained after the usual purifications.

reactant | 4-phenyl 4-cyano 1-pyrrolidino cyclohex-1 ene | 126.4 g | C1(=CC=CC=C1)C1(CC=C(CC1)N1CCCC1)C#N | C17H20N2
reactant | ethyl isothiocyanate | 40 g | C(C)N=C=S | C3H5NS
reactant | 4-phenyl 4-cyano 2-ethylthiocarbamoyl 1-pyrrolidino cyclohex-1 ene | 107.25 g | C1(=CC=CC=C1)C1(CC(=C(CC1)N1CCCC1)C(NCC)=S)C#N | C20H25N3S
product | 4-phenyl 4-cyano 2-methylthiocarbamoyl 1-pyrrolidino cyclohex-1-ene | C1(=CC=CC=C1)C1(CC(=C(CC1)N1CCCC1)C(NC)=S)C#N | C19H23N3S
